US09127017B2
(a) Synthesis of 9-acetyl-2-methoxy-12,12-diethyl-6,12-dihydro-6-thia-indeno[1,2-b]fluorene
Aluminum chloride (3.43 g, 25.6 mmol) was slowly added into a dichloromethane solution (100 mL) in which were dissolved 2-methoxy-12,12-diethyl-6,12-dihydro-6-thia-indeno[1,2-b]fluorene (6.60 g, 20.0 mmol) and acetyl chloride (1.83 mL, 25.7 mmol) at 0° C. under nitrogen atmosphere. After stirring at room temperature overnight, the reaction mixture was poured into ice-water. The product was extracted twice with dichloromethane. The combined organic layer was washed with brine, and dried over MgSO4. Dichloromethane was removed under high vacuum and the product thus obtained was used for the next step without further purification.

reactant | Aluminum chloride | 25.6 mmol, 3.43 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 2-methoxy-12,12-diethyl-6,12-dihydro-6-thia-indeno[1,2-b]fluorene | 20.0 mmol, 6.60 g | COC=1C=CC=2C=3C=C4C(=CC3C(C2C1)(CC)CC)C1=CC=CC=C1S4 | C24H22OS
reactant | acetyl chloride | 25.7 mmol, 1.83 mL | C(C)(=O)Cl | C2H3ClO
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | 9-acetyl-2-methoxy-12,12-diethyl-6,12-dihydro-6-thia-indeno[1,2-b]fluorene | C(C)(=O)C1=CC=C2SC=3C(=CC=4C(C=5C=C(C=CC5C4C3)OC)(CC)CC)C2=C1 | C26H24O2S
